US07795247B2
Step 5: methyl 14-cyclohexyl-6-[2-(dimethylamino)ethyl]-7-oxo-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate
To a solution of [3-cyclohexyl-2-[2-({[2-(dimethylamino)ethyl]amino}methyl)phenyl]-6-(methoxycarbonyl)-1H-indol-1-yl]acetic acid in DCM (0.08 M), DIPEA (3.5 eq) and HATU (2.5 eq) were added and the mixture stirred at RT overnight. The solution was diluted with DCM and HCl (1N) and the 2 phases separated. The aqueous phase was extracted with DCM (2×). The combined organic phases were then washed with a saturated aqueous solution of NaHCO3 and brine before being dried over Na2SO4, filtered and concentrated in vacuo. The crude was then used in the next step without further purification; MS (ES+) m/z 474 (M+H)+

reactant | [3-cyclohexyl-2-[2-({[2-(dimethylamino)ethyl]amino}methyl)phenyl]-6-(methoxycarbonyl)-1H-indol-1-yl]acetic acid | C1(CCCCC1)C1=C(N(C2=CC(=CC=C12)C(=O)OC)CC(=O)O)C1=C(C=CC=C1)CNCCN(C)C | C29H37N3O4
reactant | DIPEA | 3.5 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 2.5 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 0.08 M | C(Cl)Cl | CH2Cl2
solvent | HCl | 1N | Cl | ClH
product | methyl 14-cyclohexyl-6-[2-(dimethylamino)ethyl]-7-oxo-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CN(C(C2)=O)CCN(C)C)C=CC=C1)C(=O)OC | C29H35N3O3
